US07319103B2
4-(5,6,7,8-Tetrahydro-pyrazolo[5,1-b]quinazolin-9-yl)-phenol
8-[4-(Tetrahydro-pyran-2-yloxy)-phenyl]-5H,7H-6-oxa-1,4,8a-triaza-s-indacene (500 mg, 2.5 mmol) was suspended in methanol and added with p-toluenesulfonic acid (50 mg) was catalyst. The mixture was stirred at room temperature for 2 hours and concentrated in vacuo. The residue was carried on to the next reaction without purification.

reactant | 8-[4-(Tetrahydro-pyran-2-yloxy)-phenyl]-5H,7H-6-oxa-1,4,8a-triaza-s-indacene | 2.5 mmol, 500 mg | O1C(CCCC1)OC1=CC=C(C=C1)C1=C2COCC2=NC2=CC=NN12 | C19H19N3O3
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | 4-(5,6,7,8-Tetrahydro-pyrazolo[5,1-b]quinazolin-9-yl)-phenol | N1=CC=C2N=C3CCCCC3=C(N21)C2=CC=C(C=C2)O | C16H15N3O
